US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-o-tolyl-ethanol
The procedure for the synthesis of example 1a, 1-(4-benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol, was followed using commercially available 2-methylbenzylmagnesium bromide (available from Rieke-Metals) as starting material and making non-critical variations, to yield the title compound. FIA [M+H]+=388.

reactant | 1-(4-benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC=CC=C1 | C26H29NO3
reactant | 2-methylbenzylmagnesium bromide | CC1=C(C[Mg]Br)C=CC=C1
product | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-o-tolyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)C)(O)C1=CC=CC=C1 | C26H29NO2
